US07776920B2
1.9 g of dihydroxy-6-ethylbenzaldehyde, 3.48 ml of benzyl chloride and 4.7 g of K2CO3 are stirred in 5.2 ml of DMF at 90° for 2 h. The batch is diluted with EtOAc and washed with water. The organic phase is dried using Na2SO4, evaporated and chromatographed on silica gel. The uniform fractions are combined and evaporated. The oily residue solidifies on standing after a few days. Treatment with etheropetroleum ether 1:1 gives 3.5 g (88%) of 2,4-bisbenzyloxy-6-ethylbenzaldehyde, which discolours in air.

reactant | dihydroxy-6-ethylbenzaldehyde | 1.9 g | OC=1C(=C(C=O)C(=CC1)CC)O | C9H10O3
reactant | benzyl chloride | 3.48 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 4.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5.2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-bisbenzyloxy-6-ethylbenzaldehyde | 3.5 g, 88% | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC(=C1)OCC1=CC=CC=C1)CC | C23H22O3
